US08222416B2
To a mixture of toluene-4-sulfonic acid-1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl ester (1.1 g, 1.94 mmol), 4-(methanesulfonyl)phenylboronic acid (775 mg, 3.88 mmol), dichlorobis(triphenylphosphine)palladium (II) (136 mg, 0.194 mmol) in dioxane (5 mL) was added an aqueous sodium carbonate solution (2 M, 2.5 mL, 5 mmol). The resulting mixture was subjected to microwave irradiation for 2 h at 100° C. The resulting mixture was diluted with ethyl acetate (250 mL), washed with a saturated aqueous sodium bicarbonate solution (2×50 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 50% ethyl acetate/hexanes) afforded 1-benzenesulfonyl-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (540 mg, 54%) as a light yellow solid: LC/MS m/e calcd for C28H28N2O6S2 [M+H]+ 553.67, observed 553.2.

reactant | toluene-4-sulfonic acid-1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl ester | 1.94 mmol, 1.1 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(=CC2CCOCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C28H28N2O7S2
reactant | 4-(methanesulfonyl)phenylboronic acid | 3.88 mmol, 775 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 5 mmol, 2 M, 2.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.194 mmol, 136 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-benzenesulfonyl-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 540 mg, 54% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(=CC2CCOCC2)C2=CC=C(C=C2)S(=O)(=O)C | C28H28N2O6S2
